US08492427B2
2-Amino-5-cyano-terephthalic acid dimethyl ester
2-Amino-5-bromo-terephthalic acid dimethyl ester (15.0 g, 52.1 mmol), zinc (II) cyanide (6.11 g, 52.1 mmol) and tetrakis(triphenylphosphine)palladium (0) (3.0 g, 2.6 mmol) were suspended in DMF (50 ml) and the resultant reaction mixture degassed was purged with argon. The reaction mixture was heated at 120° C. for 30 minutes then concentrated in vacuo. The resultant residue was triturated with hot water (100 ml) and the product collected by filtration to yield the title compound as a dark grey solid (12.0 g, 98%). 1H NMR (d6-DMSO, 400 MHz) 8.11 (1H, s), 7.62 (2H, br s), 7.52 (1H, s), 3.89 (3H, s), 3.85 (3H, s).

reactant | 2-Amino-5-bromo-terephthalic acid dimethyl ester | 52.1 mmol, 15.0 g | COC(C1=C(C=C(C(=O)OC)C(=C1)Br)N)=O | C10H10BrNO4
reactant | DMF | 50 ml | CN(C)C=O | C3H7NO
catalyst | zinc (II) cyanide | 52.1 mmol, 6.11 g | [C-]#N.[Zn+2].[C-]#N
catalyst | tetrakis(triphenylphosphine)palladium | 2.6 mmol, 3.0 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-Amino-5-cyano-terephthalic acid dimethyl ester | 12.0 g, 98% | COC(C1=C(C=C(C(=O)OC)C(=C1)C#N)N)=O | C11H10N2O4
